US05130335
B. n-Tetradecyl 4-hydroxybenzoate
To a solution of 2.76 g (20 mmol) of 4-hydroxybenzoic acid and 800 mg (200 mmol) of sodium hydroxide in 12 ml of water was added 250 mg of methyl tricaprylammonium chloride and 4.67 g (17 mmol) of n-tetradecylbromide. The mixture was heated at reflux for 4 h and then diluted with 30 ml of water. The mixture was extracted with 2×30 ml ether. The ether extracts were combined and washed with water and saturated NaCl solution. The solvent was removed in-vacuo and the residue purified by flash chromatography (silica; 10% ethyl acetate in hexanes) to give the title compound as a white solid.

reactant | 4-hydroxybenzoic acid | 20 mmol, 2.76 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydroxide | 200 mmol, 800 mg | [OH-].[Na+]
reactant | n-tetradecylbromide | 17 mmol, 4.67 g | C(CCCCCCCCCCCCC)Br | C14H29Br
solvent | water | 12 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | n-Tetradecyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCCCCCCCCCCCCCC)C=C1 | C21H34O3
